US07897597B2
1-(4-Aminobutyl)-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (7.0 g, 18 mmol) was mixed with chloroform (180 mL), and the suspension was cooled with an ice/water bath. Methanesulfonyl chloride (1.59 mL, 20.5 mmol) was added dropwise, and the reaction was stirred for 18 hours. Saturated aqueous sodium carbonate was added to the solution, and the layers were separated. The precipitate in the aqueous layer was isolated by filtration, washed with ethanol and diethyl ether, and recrystallized from a mixture of methanol and chloroform. During the recrystallization, the hot solution was filtered through a glass fiber filter. N-[4-(4-Amino-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide (2.96 g) was isolated as an off-white solid. The organic layer was concentrated under reduced pressure, and the residue was stirred with boiling methanol and isolated by filtration to afford 1.90 g of N-[4-(4-amino-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as a white solid, mp 213.5-215° C.

reactant | 1-(4-Aminobutyl)-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 18 mmol, 7.0 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)OCC2=CC=CC=C2)N)CC | C23H27N5O
reactant | Methanesulfonyl chloride | 20.5 mmol, 1.59 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 180 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-Amino-7-benzyloxy-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | 2.96 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CC)OCC2=CC=CC=C2 | C24H29N5O3S
